US04783453
A solution of allyl (5R,6S)-2-azido-6-[(R)-1-hydroxyethyl]carbapen-2-em-3-carboxylate (42 mg, 0.15 mmol) and triphenylphosphine (12 mg, 0.045 mmol) in 1:1 methylene chloride-ethyl acetate (2.7 ml) is treated with 0.5M potassium 2-ethylhexanoate in ethyl acetate (0.3 ml, 0.15 mmol) and tetrakis(triphenylphosphine)palladium (O) (13.8 mg, 0.012 mmol). The mixture is stirred 15 minutes at ambient temperature under a nitrogen atmosphere, diluted with diethyl ether, and centrifuged. The insoluble pellet is washed with ether and dried under vacuum to afford potassium (5R,6S)-2-azido-6-[(R)-1-hydroxyethyl]carbapen-2-em-3-carboxylate.

reactant | allyl (5R,6S)-2-azido-6-[(R)-1-hydroxyethyl]carbapen-2-em-3-carboxylate | 0.15 mmol, 42 mg | N(=[N+]=[N-])C=1C[C@H]2N(C1C(=O)OCC=C)C([C@@H]2[C@@H](C)O)=O | C12H14N4O4
reactant | triphenylphosphine | 0.045 mmol, 12 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium 2-ethylhexanoate | 0.5M | C(C)C(C(=O)[O-])CCCC.[K+]
reactant | ethyl acetate | 0.15 mmol, 0.3 ml | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | tetrakis(triphenylphosphine)palladium | 0.012 mmol, 13.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | methylene chloride ethyl acetate | 2.7 ml | C(Cl)Cl.C(C)(=O)OCC
product | potassium (5R,6S)-2-azido-6-[(R)-1-hydroxyethyl]carbapen-2-em-3-carboxylate | N(=[N+]=[N-])C=1C[C@H]2N(C1C(=O)[O-])C([C@@H]2[C@@H](C)O)=O.[K+] | InChI=1S/C9H10N4O4.K/c1-3(14)6-5-2-4(11-12-10)7(9(16)17)13(5)8(6)15;/h3,5-6,14H,2H2,1H3,(H,16,17);/q;+1/p-1/t3-,5-,6-;/m1./s1
